US05277895
a) 10-(2-Hydroxy-11-benzyloxy-undecyl)-1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane
28.73 g (103.92 mmol) of 1,2-epoxy-11-benzyloxyundecane and 10 g (28.86 mmol) of 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane (=D03A) are dissolved in a mixture of 50 ml of dioxane/80 ml of water and the pH is brought to pH 10 with 6N potassium hydroxide solution. It is stirred for 24 hours at 70° C. It is evaporated to dryness, the residue is taken up with 200 ml of water/50 ml of methanol and extracted twice with 100 ml of tert-butyl methyl ether. The aqueous solution is adjusted to pH 3 with 5N hydrochloric acid and evaporated to dryness. The residue is boiled out (extracted) with 200 ml of methanol/80 ml of methylene chloride. It is cooled in an ice bath and filtered off from precipitated potassium chloride. The filtrate is concentrated by evaporation in a vacuum, the residue is dissolved in 45 ml of water/20 ml of ethanol and then added to a column of poly-(4-vinylpyridine). The product is eluted with a solution of ethanol/water 1:3. After concentration by evaporation in a vacuum, the residue is chromatographed on a reversed-phase column (RP 18/mobile solvent=gradient of water/tetrahydrofuran). After concentration by evaporation of the main fraction, 12.22 g (68% of theory) of a strongly hygroscopic, vitreous solid is obtained.

reactant | 1,2-epoxy-11-benzyloxyundecane | 103.92 mmol, 28.73 g | O1CC1CCCCCCCCCOCC1=CC=CC=C1 | C18H28O2
reactant | 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 28.86 mmol, 10 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | potassium hydroxide | 6N | [OH-].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 10-(2-Hydroxy-11-benzyloxy-undecyl)-1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | OC(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)CCCCCCCCCOCC1=CC=CC=C1 | C32H54N4O8
